US08080572B2
2-(1-Trityl-1H-tetrazol-5-yl)phenylboronic Acid
A solution of 5-phenyl-1-trityl-1H-tetrazole (70.0 g, 180.20 mmol, 1.00 equiv) in THF (dried) (560 mL) was placed in a flask that had been purged and maintained with an inert atmosphere of nitrogen. The mixture was cooled to −25° C. Butyllithium was added to quench the trace of water in the reaction mixture until the color of the mixture remained red for at least 5 minutes. Butyllithium (80.0 mL, 2.5 mol/L) was then added dropwise to the mixture over a period of about 40 minutes at a temperature below −25° C. The temperature of the mixture was raised to −5° C., and the mixture was stirred at −5° C. for 3 hours. The mixture was then cooled to −25° C. and triisopropyl borate (50.8 g, 270.11 mmol, 1.50 equiv) was added dropwise. The mixture was warmed to temperature in the range of 25-35° C. and stirred for 2 hours. The mixture was cooled again in the range of 0-5° C., and 3% aqueous acetic acid (470 mL) was slowly added over 30-40 minutes. The mixture was stirred for 30-40 minutes and then filtered. The crude product was washed with water (2×300 mL) and dried over reduced pressure. The crude product was then purified by re-crystallization from EtOAc (1 g/15 ml) to yield 54 g (69%) of the title compound as a white solid. ES m/z: [M+H]+ calcd for C26H21BN4O2 433.1, found 433.1.

reactant | 5-phenyl-1-trityl-1H-tetrazole | 180.20 mmol, 70.0 g, 1.00 equiv | C1(=CC=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H20N4
reactant | triisopropyl borate | 270.11 mmol, 50.8 g, 1.50 equiv | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | acetic acid | 470 mL | C(C)(=O)O | C2H4O2
solvent | THF | 560 mL | C1CCOC1 | C4H8O
product | 2-(1-Trityl-1H-tetrazol-5-yl)phenylboronic Acid | 54 g, 69% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)B(O)O | C26H21BN4O2
